US08629147B2
(S)-2-Azido-1-(3-chlorophenyl)-ethanol
A mixture of toluene-4-sulfonic acid (S)-2-(3-chlorophenyl)-2-hydroxyethyl ester (16.34 g, 0.050 mol), sodium azide (6.50 g, 0.10 mol) and DMSO (50 ml) was stirred for 2 h at 80° C. Water (100 ml) was added, extracted with hexane-ether (1:1) mixture (2×150 ml). Combined extract was dried over Na2SO4, evaporated. The residue was separated on SiO2 (100 g), hexane-EtOAc, 0 to 20%. Colorless oil, 7.0 g, (0.035 mol, 71%). 1H NMR (300 MHz, DMSO) δ 7.46 (s, 1H), 7.36 (m, 3H), 5.95 (d, J=4.5 Hz, 1H), 4.82 (q, J=5.3 Hz, 1H), 3.35 (m, 2H).

reactant | toluene-4-sulfonic acid (S)-2-(3-chlorophenyl)-2-hydroxyethyl ester | 0.050 mol, 16.34 g | ClC=1C=C(C=CC1)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O | C15H15ClO4S
reactant | sodium azide | 0.10 mol, 6.50 g | [N-]=[N+]=[N-].[Na+]
reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | Water | 100 ml | O | H2O
product | (S)-2-Azido-1-(3-chlorophenyl)-ethanol | N(=[N+]=[N-])C[C@@H](O)C1=CC(=CC=C1)Cl | C8H8ClN3O
